US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(trans-3-(3-pyridyl)acryloyl)-L-lysine (Compound No. 164)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with trans-3-(3-pyridyl)acrylic acid under the conditions described in example 86 to yield 60% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | trans-3-(3-pyridyl)acrylic acid | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(trans-3-(3-pyridyl)acryloyl)-L-lysine | 60% | C(C(C)C)N([C@@H](CCCCNC(\C=C\C=1C=NC=CC1)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C24H30N4O7S
